Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Seasonal
 
Attending: ___.
 
Chief Complaint:
Visual obscurations 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI:
___ is a ___ left handed man who presents to the ED 
with vision changes. Over the past few months he has had ___ 
episodes of loss of vision focus while at rest. Most recently 
the recurred ___ afternoon. He was at work walking around his 
office when he noticed sudden onset vision change as if "looking 
through water." He noticed that if he was looking at a word, he 
couldn't see the first letter. He tested himself by looking at 
his finger and noticed that the left field of his vision was out 
in both eyes. This improved in ___ minutes and his vision was 
95%+ back to normal. Since then, one eye has felt a little 
strange and he took some Tylenol for a mild HA, which is not 
unusual for him. 

He made an appointment to see his PCP ___. There, he was found 
to be in new onset rapid atrial fibrillation. 

Two weeks ago he was doing intervals on the stair master and 
noticed he was easily SOB, which is atypical for him. This 
resolved after a few minutes and his exercise tolerance then 
returned to baseline.

He saw his PCP today who found him to be in new onset atrial 
fibrillation and he was referred to the ED. On ED exam, he has a 
right homonymous hemianopia. Neurology consulted for stroke 
evaluation. 

For his atrial fibrillation, he presented with RVR to 150s, got 
1 IV dose and subsequent PO dilt with good effect and rate 
control.
 
Review of Systems: Reports some mild balance difficulties for a 
couple weeks. He gets some numbness in his hands at times 
(chronic).
The pt denies diplopia, dysarthria, dysphagia, lightheadedness, 
vertigo, tinnitus or hearing difficulty. Denies difficulties 
producing or comprehending speech.  Denies focal weakness, 
numbness, parasthesiae. No bowel or bladder incontinence or 
retention. The pt denies recent fever or chills.  No recent 
weight loss. Denies cough, shortness of breath.  Denies chest 
pain or palpitations.  Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain.  No recent change in bowel or 
bladder habits.  No dysuria. Denies rash.

 
Past Medical History:
Past Medical and Surgical History:
ACHILLES TENDINITIS                                             
ALLERGIC RHINITIS                                               
APHTHOUS ULCERS                                                 
BUNION                                                          
GERD                                                            
HEMORRHOIDS, EXTERNAL                                           
IRRITABLE BOWEL SYNDROME                                        
PATELLO-FEMORAL SYNDROME                                        
PHOBIA, SOCIAL                                                  
PNEUMONOPATHY, ALVEOLAR NEC                                     
PROSTATE ASYMMETRY, RIGHT                                       
ADD (on Adderal - takes daily)                             
PLANTAR FASCIITIS
S/P FINGER TENDON SURGERY
S/P HERNIA SURGERY
S/P TONSILLECTOMY

 
Social History:
___
Family History:
Family History:
- mother: ___ disease
- father: brain aneurysm and 2 SAH
- PGF: colon cancer and died of MI
- MGF: CAD, died of MI

 
Physical Exam:
ADMISSION EXAMINATION
Vitals:  97.0  77  141/99  16  100% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT
Neck: Supple. 
Pulmonary: breathing comfortably on RA
Cardiac: RRR, no murmurs
Abdomen: soft, nondistended
Extremities: no edema, warm
Skin: no rashes or lesions noted.
 
NEUROLOGIC EXAMINATION
-Mental Status: Alert, oriented.  Able to relate history without 
difficulty.  Language is fluent with normal prosody.  There were 
no paraphasic errors.  Pt. was able to name both high and low 
frequency objects on the stroke card. Described the cookie jar 
picture with detail.  Able to read without difficulty.  Speech 
was not dysarthric.  Able to follow both midline and 
appendicular commands.  Attentive, able to name ___ backward 
without difficulty.  There was no evidence of neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm bilaterally.  VFF to confrontation with 
finger wiggling without extinction to DSS. 
III, IV, VI: EOMI without nystagmus.   
V: Facial sensation intact to light touch in all distributions 
VII: No facial droop with symmetric upper and lower facial 
musculature bilaterally  
VIII: Hearing intact to voice.
IX, X: Palate elevates symmetrically.
XI: shoulder shrug is symmetric.
XII: Tongue protrudes in midline with full ROM right and left 
 
-Motor: Normal bulk throughout. No pronator drift bilaterally. 
No tremor noted. 
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  ___   ___  ___   5   5    5     5   5
R  ___   ___  ___   5   5    5     5   5
 
-DTRs:
    Bi  Tri  ___  Pat  Ach
L   2    2     2     2    2
R   2    2     2     2    2
- Toes were downgoing bilaterally.

-Sensory: Mild hyperesthesia in his hands to pinprick. No 
deficits to light touch, cold sensation, vibratory sense, 
proprioception throughout. 

-Coordination: No dysmetria on FNF bilaterally. 

-Gait: Good initiation. Narrow-based, normal stride.  Able to 
walk on toes and in tandem without difficulty (deferred walking 
on heels given pain from plantar fasciitis). Romberg absent.
DISCHARGE PHYSICAL EXAMINATION: 

Examination similar to admission exam. No difficulty with 
language. No visual deficits, optic discs visualized , no 
blurring and very sharp. Strength ___ in all muscle groups.  No 
difficulty walking. 
 
Pertinent Results:
Hematology 
 COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW RDWSD Plt 
Ct 
___ 04:33PM    4.8 4.80 15.2 43.9 92 31.7 34.6 11.4 38.6 
222 Import Result 

 
 DIFFERENTIAL Neuts Bands Lymphs Monos Eos Baso Atyps Metas Im 
___ AbsLymp AbsMono AbsEos AbsBaso 
___ 04:33PM    58.8   28.4 10.6 0.8* 1.2*     0.2 2.84 
1.37 0.51 0.04 0.06 Import Result 

 
 BASIC COAGULATION ___, PTT, PLT, INR) ___ PTT Plt Ct ___ 
___ 09:05AM      55.8*     Import Result 

 
___ 06:11AM    12.1 48.1*   1.1 Import Result 

 
___ 03:43AM      45.2*     Import Result 

 
___ 04:33PM        222   Import Result 

 
___ 04:33PM    11.5 32.3   1.1 Import Result 

 
 

Chemistry 
 RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 06:11AM    91 14 1.0 141 4.1 ___ Import Result 


 
___ 04:33PM    ___ 142 3.9 ___ Import Result 


 
 ESTIMATED GFR (MDRD CALCULATION) estGFR 
___ 04:33PM    Using this Import Result 

 
 ENZYMES & BILIRUBIN ALT AST LD(LDH) CK(CPK) AlkPhos Amylase 
TotBili DirBili 
___ 06:11AM          106         Import Result 

 
___ 04:33PM    17 27     61   0.8   Import Result 

 
 OTHER ENZYMES & BILIRUBINS Lipase 
___ 04:33PM    20 Import Result 

 
 CPK ISOENZYMES CK-MB cTropnT 
___ 06:11AM    3 <0.01 Import Result 

 
___ 04:33PM      <0.01 Import Result 

 
 CHEMISTRY TotProt Albumin Globuln Calcium Phos Mg UricAcd Iron 
Cholest 
___ 06:11AM          9.4 4.0 2.1     191 Import Result 

 
___ 04:33PM      4.4   9.6 3.9 2.2       Import Result 

 
 HEMATOLOGIC D-Dimer 
___ 06:11AM    138 Import Result 

 
 DIABETES MONITORING %HbA1c 
___ 06:11AM    PND Import Result 

 
 LIPID/CHOLESTEROL Triglyc HDL CHOL/HD LDLcalc LDLmeas 
___ 06:11AM    27 95 2.0 91 104 Import Result 

 
 PITUITARY TSH 
___ 06:11AM    1.4 Import Result 

 
 TOXICOLOGY, SERUM AND OTHER DRUGS ASA Ethanol Acetmnp Bnzodzp 
Barbitr Tricycl 
___ 04:33PM    NEG NEG NEG NEG NEG NEG Import Result  
 

IMAGING: 

IMAGING:
CTA head/neck ___:
"1. No stenosis, occlusion, dissection, or aneurysm greater than 
3 mm in the great vessels of the head or neck.
2. No intracranial hemorrhage or loss of gray-white 
differentiation to suggest acute infarction.
3. Final read pending 3D reformations."

MRI HEAD:  
1. No acute infarction or intracranial hemorrhage.
2. Probable chronic small vessel microangiopathy.
 

EKG: afib at 117 bpm, minimal ST depressions
 
Brief Hospital Course:
Mr. ___ is a healthy ___ gentleman who was 
admitted to the ___ Stroke Neurology service for transient 
visual obscurations which had already resolved during our 
Neurologic evaluation on admission. These symptoms occurred in 
the setting of newly diagnosed A-fib (seen on EKG at his PCP's 
office) which was concerning for TIA. 

 Imaging revealed no major vessel occlusions on CTA. MRI did not 
show any acute strokes, however the FLAIR did show small 
punctate foci in the frontal lobes which could suggest prior 
embolic strokes. In any case, given his new diagnosis of afib, 
he will be anticoagulated to prevent cardioembolic stroke with 
Eliquis (5mg BID). Mr. ___ was monitored on telemetry during 
his hospitalization at ___. He was started on rate controlling 
medication and had stable heart rates throughout his stay. He 
remained hemodynamically stable. He also had resolution of his 
neurologic symptoms and no further physical exam changes. Given 
the likely etiology of his transient symptoms, we agreed to have 
the rest of his stroke work up to be done in the outpatient 
setting. Specifically, he will have a trans-thoracic 
echocardiogram (TTE) in the ___ outpatient echo lab. In 
addition, he is to see a Cardiologist (PCP to refer him for one) 
given that he has new onset a-fib and has been started on 
eliquis. 
 
In terms of other stroke risk factors, Mr. ___ LDL returned 
at 104 which is mildly elevated. Given his TIA and elevated LDL, 
he was started on atorvastatin 20mg and discharged on this dose. 
Initially, for atrial fibrillation, Mr. ___ was started on 
diltiazem 30mg TID, however given the interactions this 
medication has with eliquis and atorvastatin, he was switched to 
metoprolol 50mg BID and was sent home on this medication. This 
medication can be titrated as needed for better heart rate 
control. No acute complications or other significant events 
occurred during this hospitalization. 

TRANSITIONS OF CARE ISSUES: 
1. Patient to follow-up with Dr. ___ (stroke Attending) 
within ___ months time (Patient to call the office to schedule 
appointment as patient was discharged over the weekend) 
2. Patient to START taking eliquis 5mg BID 
3. Patient to START taking metoprolol 50mg BID
4. Patient to START taking atorvastatin 20mg daily 
5. Advised patient on increased risk of bleeding with eliquis 
and to be cautious while performing high risk activities such as 
skiing and bicycling. 
6. Patient to follow up with his PCP ___ 1 week.
7. Patient to have an outpatient TTE (echocardiogram) early next 
week (___), order has been placed 
8. Patient to also follow up with a Cardiologist (PCP to refer)
9. Patient to STOP taking Adderall   as this can exacerbate the 
heart rate/ fib. Patient to take all other home medications as 
prescribed. 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (X) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (X) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(X) Yes - () No  
4. LDL documented? (X) Yes (LDL =104 ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (X) Yes - () No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? (X) Yes - () No [reason 
() non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (X) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(X) Yes - () No  
9. Discharged on statin therapy? (X) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (X) Yes [Type: () 
Antiplatelet - (X) Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (X) Yes - () No - () N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amphetamine-Dextroamphetamine XR 20 mg PO DAILY 
2. Ranitidine 75 mg PO DAILY 
3. Fexofenadine 60 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth TWICE DAILY 
Disp #*60 Tablet Refills:*0
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth TWICE DAILY 
Disp #*90 Tablet Refills:*12 
2.  Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth DAILY Disp #*90 
Tablet Refills:*3 
3.  Metoprolol Tartrate 50 mg PO BID 
RX *metoprolol tartrate 50 mg 1 tablet(s) by mouth TWICE DAILY 
Disp #*120 Tablet Refills:*3 
4.  Fexofenadine 60 mg PO DAILY  
5.  Ranitidine 75 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
TIA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted for an episode of transient vision blurring/ 
loss of part of your visual field. Your PCP found you to be in 
new onset atrial fibrillation which is an abnormal heart rhythm. 
Given that this new heart rhythm can cause blood clots, there 
was a risk of you having had a stroke. MRI of you brain 
thankfully did not reveal any evidence of stroke. Given that you 
were found in this rhythm however, you will need to take a blood 
thinner that will prevent you from forming clots that could 
cause stroke in the future. 
Likely, your symptoms can be described as a TIA (transient 
ischemic attack) which is a mini-stroke. 
Your new medications are as follows: 
1. Eliquis (apixaban)
2. Atorvastatin 20mg daily
3. Metoprolol 50mg twice daily 
Please STOP taking Adderall as this can worsen your afib

You will follow up with Dr. ___ neurologist) in a few 
months and will be contacted shortly for a follow up 
appointment. 
 
Followup Instructions:
___